US07741360B2
[4-Acetylamino-3-(biphenyl-4-ylsulfanyl)-2-methyl-indol-1-yl]-acetic acid
To a solution of (4-acetylamino-2-methyl-indol-1-yl)-acetic acid ethyl ester (0.27 g) and biphenyl-4-thiol (0.19 g) in DMF (5 ml) was added iodine (0.25 g). After stirring at RT overnight 1M NaOH (3 ml) was added and the reaction stirred at RT for a further 12 hours. The reaction was poured into water, the pH adjusted to 3 using 1M HCl and the organics extracted with EtOAc. The EtOAc extractions were combined, washed with brine, dried (MgSO4) and evaporated under reduced pressure to give crude material. Purification using RPHPLC gave the title compound as a pink solid (0.16 g).

reactant | (4-acetylamino-2-methyl-indol-1-yl)-acetic acid ethyl ester | 0.27 g | C(C)OC(CN1C(=CC2=C(C=CC=C12)NC(C)=O)C)=O | C15H18N2O3
reactant | biphenyl-4-thiol | 0.19 g | C1(=CC=C(C=C1)S)C1=CC=CC=C1 | C12H10S
reactant | iodine | 0.25 g | II | I2
reactant | NaOH | 1M, 3 ml | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [4-Acetylamino-3-(biphenyl-4-ylsulfanyl)-2-methyl-indol-1-yl]-acetic acid | 0.16 g | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)O)C)SC1=CC=C(C=C1)C1=CC=CC=C1 | C25H22N2O3S
